US07625893B2
a) (3R,4R,5R)-3-(Acetylamino-methyl)-4-[4-((S)-3-methoxy-2-methyl -propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H -benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester
5.936 mmol of acetyl chloride are added to a solution of 5.396 mmol of (3R,4R,5R)-3-aminomethyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy -propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester and 6.475 mmol of triethylamine in 80 ml of dichloromethane under argon at 0° C. After 30 minutes, the reaction mixture is quenched with saturated aqueous sodium bicarbonate solution and extracted with tert-butyl methyl ether (2×). The combined organic layers are washed successively with water and brine, dried with sodium sulfate and evaporated. The residue is purified by flash chromatography (SiO2 60F) to afford the title compound as a yellow oil. Rt=4.98 (gradient I).

reactant | acetyl chloride | 5.936 mmol | C(C)(=O)Cl | C2H3ClO
reactant | (3R,4R,5R)-3-aminomethyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy -propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | 5.396 mmol | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)COC[C@H](COC)C)CN | C39H53N3O7
reactant | triethylamine | 6.475 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (3R,4R,5R)-3-(Acetylamino-methyl)-4-[4-((S)-3-methoxy-2-methyl -propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H -benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)COC[C@H](COC)C)CNC(C)=O | C41H55N3O8
